US06127360
Synthesis of 1-(2-quinolylmethyl)piperazine
1-Formyl-4-(2-quinolylmethyl)piperazine (86.00 g, 332 mmol) was dissolved in ethanol (800 ml), followed by the addition of concentrated sulfuric acid (49.04 g, 500 mmol). After the resulting mixture was heated under reflux and stirring for 4 days, the solvent was distilled off under reduced pressure. The thus-obtained residue was dissolved in water. After the resulting solution was washed twice with chloroform, the solution was rendered basic with a 10N aqueous solution of sodium hydroxide, followed by extraction with chloroform. The extract was washed with water and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, whereby 73.65 g of the title compound were obtained as a pale amber oil (yield: 97.6%).

reactant | 1-Formyl-4-(2-quinolylmethyl)piperazine | 332 mmol, 86.00 g | C(=O)N1CCN(CC1)CC1=NC2=CC=CC=C2C=C1 | C15H17N3O
reactant | sulfuric acid | 500 mmol, 49.04 g | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 1-(2-quinolylmethyl)piperazine | 73.65 g | N1=C(C=CC2=CC=CC=C12)CN1CCNCC1 | C14H17N3
